US04886620
A mixture of 5.3 g of p-[p-(4-cyano-4-octylcyclohexyl)phenyl]phenol (obtainable by alkaline ether splitting from r-1-cyano-cis-4-(4'-propyloxybiphenyl-4-yl)-1-octylcyclohexane with potassium tert-butylate in NMP at 180°), 1.9 g of optically active 2-chloro-3-methylbutyric acid and 170 g of DMAP are suspended in 40 ml of CH2Cl2. 3.1 g of DCC in 5 ml of CH2Cl2 are then added dropwise at 0° and stirring is carried out for 12 hours at room temperature. After separating off the dicyclohexylurea and the usual working up, optically active 4'-(4-cyano-4-octylcyclohexyl)-biphenyl-4-yl 2-chloro-3-methylbutyrate is obtained, K 81 SA 138 I.

reactant | p-[p-(4-cyano-4-octylcyclohexyl)phenyl]phenol | 5.3 g | C(#N)C1(CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)O)CCCCCCCC | C27H35NO
reactant | potassium tert-butylate | CC(C)(C)[O-].[K+]
reactant | 2-chloro-3-methylbutyric acid | ClC(C(=O)O)C(C)C | C5H9ClO2
reactant | DCC | 3.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | NMP | CN1CCCC1=O | C5H9NO
catalyst | DMAP | 170 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4'-(4-cyano-4-octylcyclohexyl)-biphenyl-4-yl 2-chloro-3-methylbutyrate | ClC(C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(CC1)(CCCCCCCC)C#N)C(C)C | C32H42ClNO2
